datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([O:76]C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>C[CH:20](C[Fe-3:21]1234(C#[O+])(C#[O+])C5C1C2C3C54)[H:10].C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([O:76]C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21"
"C[Si](C)(C)C12[C:62]3([C:11](=[CH2:10])[C:82]4=[CH:83][CH:84]=[CH:85][CH:94]=[CH:93]4)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+].Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C[Si](C)(C)C12[C:62]3([C+:11]([CH2:10][CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]4=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]4)[C:82]4=[CH:83][CH:84]=[CH:85][CH:94]=[CH:93]4)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21"
"C1C[CH:10]=[CH:11]C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2CCC[CH+:11]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20"
"C[C:11](=[CH2:10])[C:62](C)=[CH2:63].[F:20][N+:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1>>C[C+:11]([CH2:10][F:20])[C:62](C)=[CH2:63].[N:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1 10,11=10,20;20,21=21"
"CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH:11](C)[H:10].C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH+:11]C.C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1.C[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH:10]2[CH:11]=[CH:12][C:13](C)=[O+:14]2)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"Br[C:12]1=[C:13]([NH2:14])[C:62](Br)=[CH:63][N:10]=[CH:11]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[CH:11]=[C:12](Br)[C:13](=[NH2+:14])[C:62](Br)=[CH:63]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20;12,13=11,12;14=13,14"
"C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)C=C1.CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2CCCC2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1.C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1>>CO[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1.C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1.[H:10][F:20] 10,11=10,20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:13]1=[CH:12][CH:11]=[CH:10][CH:61]=[CH:62]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2[CH:11]=[CH:12][C+:13](C)[CH:62]=[CH:61]2)([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12"
"C/[C:11](=[CH:10]/[C:61](C)=[O:62])[O-:12].Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>C[C:11]([CH:10]([C:20]1([C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1)[C:61](C)=[O:62])=[O:12] 10,11=10,20;12=11,12"
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.CC[O:82][C:71]([C-:10]1CCCC[C:62]1=[O:61])=[O:72]>>CC[O:82][C:71]([C:10]1([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44](Br)[CH:45]=[CH:46]2)CCCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21,22;22,23=23"
"CC(C)[C:11]1([H:10])[O:12]C(C)C(C)[O:62]1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC(C)[C:11]1=[O+:12]C(C)C(C)[O:62]1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.C[N:12]1[C:11]([B-:82](F)(F)F)=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2>>C[N+:12]1=[C:11]([B-:82](F)(F)F)[CH:10]([CH:20]2CC[O:33][C:22]([O-:23])=[CH:21]2)[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
